US06548522B1
N-(3-Methyl-butyl)-2,2-diphenyl-acetamide
The title compound, white solid, m.p. 128° C. and MS: m/e=281 (M+) was prepared in accordance with the general method of example 1 from diphenylacetyl chloride and 3-methyl-butylamine.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | 3-methyl-butylamine | CC(CCN)C | C5H13N
product | N-(3-Methyl-butyl)-2,2-diphenyl-acetamide | CC(CCNC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C19H23NO
